US07777031B2
Step A: Ethyl 6-(4-fluorophenoxy)nicotinate.
To a 2-L, 3-necked, round-bottomed flask equipped with a mechanical stirrer, a thermo couple, and a condenser was added DMF (194 mL), ethyl 6-chloronicotinate (100.00 g, 0.522 mol), and 4-fluorophenol (65.09 g, 0.575 mol). A brown solution formed after stirring for 5-10 min. To the solution was then added Cs2CO3 (189.19 g, 0.575 mol) in one portion. The reaction temperature increased from 20° C. to 30° C. over 10 min without external heating and then started cooling down. The resulting suspension was stirred at rt for 2-3 h and the internal reaction temperature cooled back to 23-25° C. The reaction mixture was then heated to 60° C. and stirred for 18-20 h. HPLC analysis indicated that the reaction was complete. The heating mantle was removed and the reaction mixture was allowed to cool to 25-30° C. To the mixture was added deionized water (145.5 mL) in a steady stream over 5 min and a slight exotherm was observed. The resulting suspension was stirred at rt for 15-20 min. Two additional portions of deionized water (145.5 mL each) were added and the suspension was stirred at rt for 15-30 min. The pH of the suspension was around 9-10. The solid product was collected by vacuum filtration, rinsed thoroughly with deionized water in portions. The filter cake as dried in a filter funnel by pulling through air for 24 h. The product was isolated as a white solid (133.6 g). mp: 68.0° C. (by DSC). 1H NMR (CDCl3): δ 8.81 (d, J=2.6 Hz, 1H), 8.22 (dd, J=8.5, 2.6 Hz, 1H), 7.12 (br s, 2H), 7.10 (d, J=1.0 Hz, 2H), 6.94 (d, J=8.5 Hz, 1H), 4.38 (q, J=7.1 Hz, 2H), 4.38 (t, J=7.1 Hz, 3H). MS (ESI): M+H+=262.1.

reactant | ethyl 6-chloronicotinate | 0.522 mol, 100.00 g | ClC1=NC=C(C(=O)OCC)C=C1 | C8H8ClNO2
reactant | 4-fluorophenol | 0.575 mol, 65.09 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | Cs2CO3 | 0.575 mol, 189.19 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 194 mL | CN(C)C=O | C3H7NO
product | Ethyl 6-(4-fluorophenoxy)nicotinate | 133.6 g | FC1=CC=C(OC2=NC=C(C(=O)OCC)C=C2)C=C1 | C14H12FNO3
